US05859007
N-Isopropyl-N-(4-methoxy-phenyl)-2-(3-methyl-3-naphthalen-1-ylmethyl-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl) acetamide
To a stirring solution of 150 mg (0.25 mmol) of N-Isopropyl-N-(4-methoxy-phenyl)-2-(3-naphthalen-1-ylmethyl-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl) acetamide, prepared as in Example 34, in 5 mL of DMF at 0° C. is added 0.45 mL (0.45 mmol, 1.8 equiv) of a 1.0M solution of NaN(TMS)2 in THF. The resulting solution is stirred 5 min, and 28 μL (0.45 mmol, 1.8 equiv) of methyl iodide is added. The resulting solution is stirred 3 h at RT, warmed to 50° C. for 16 h, and then quenched with 5 mL of H2O. The reaction mixture is then poured into 50 mL of Et2O and extracted with H2O (2×50 mL). The organic layer is separated, dried (MgSO4), and the solvents removed in vacuo. Purification of the material by silica gel MPLC on an Si60 column using hexane/EtOAc 3/1 as eluent followed by lyophilization in acetonitrile/H2O afforded 120 mg of the title compound as a white amorphous solid: 1H NMR (DMSO-d6, 300 MHz) δ7.93-7.86 (m, 2H), 7.77 (d, 1H, J=8.0), 7.60-7.06 (m, 16H), 6.89 (dd, 1H, J=0.8, 8.1), 4.88 (m, 1H), 4.34 (s, br, 2H), 3.81 (s, 3H), 3.20 (d, 1H, J=14.7), 3.00 (d, 1H, J=14.7), 1.01 (m, 9H); low resolution MS (FAB)m/e 612 (MH+), 611 (M+), 447.

reactant | N-Isopropyl-N-(4-methoxy-phenyl)-2-(3-naphthalen-1-ylmethyl-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl) acetamide | 0.25 mmol, 150 mg | C(C)(C)N(C(CN1C2=C(N(C(C(C1=O)CC1=CC=CC3=CC=CC=C13)=O)C1=CC=CC=C1)C=CC=C2)=O)C2=CC=C(C=C2)OC | C38H35N3O4
reactant | NaN(TMS)2 | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | methyl iodide | 0.45 mmol, 28 μL, 1.8 equiv | CI | CH3I
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | THF | C1CCOC1 | C4H8O
product | N-Isopropyl-N-(4-methoxy-phenyl)-2-(3-methyl-3-naphthalen-1-ylmethyl-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl) acetamide | 120 mg | C(C)(C)N(C(CN1C2=C(N(C(C(C1=O)(CC1=CC=CC3=CC=CC=C13)C)=O)C1=CC=CC=C1)C=CC=C2)=O)C2=CC=C(C=C2)OC | C39H37N3O4
